US08957062B2
Step B: tert-butyl [4-(benzyloxy)-2-chlorophenyl]acetate
To a solution of 4-(benzyloxy)-1-bromo-2-chlorobenzene (1 g, 3.36 mmol) in THF (10 ml) was added 2-tert-butoxy-2-oxoethylzinc chloride (13.44 ml, 6.72 mmol). Nitrogen gas bubbled through the mixture for 10 min. then Pd2(dba)3 (0.154 g, 0.180 mmol) and X-PHOS (0.160 g, 0.336 mmol) were added and the resulting mixture heated at 60° C. for 50 min. The mixture was cooled, diluted with ethyl acetate (20 mL), washed with aqueous ammonium chloride (saturated, 1×15 mL), dried over MgSO4, filtered and the solvent evaporated under reduced pressure. The residue was purified by column chromatography on silica gel Biotage 50M, using a gradient eluant of EtOAc/Hexane (0-20%) to afford the title compound. LC/MS (m/z): 333 (M+H)+.

reactant | 4-(benzyloxy)-1-bromo-2-chlorobenzene | 3.36 mmol, 1 g | C(C1=CC=CC=C1)OC1=CC(=C(C=C1)Br)Cl | C13H10BrClO
reactant | 2-tert-butoxy-2-oxoethylzinc chloride | 6.72 mmol, 13.44 ml | [Cl-].C(C)(C)(C)OC(C[Zn+])=O
reactant | X-PHOS | 0.336 mmol, 0.160 g | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=C(C=CC=C2)P(C3CCCCC3)C4CCCCC4)C(C)C | C33H49P
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
catalyst | Pd2(dba)3 | 0.180 mmol, 0.154 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | tert-butyl [4-(benzyloxy)-2-chlorophenyl]acetate | C(C1=CC=CC=C1)OC1=CC(=C(C=C1)CC(=O)OC(C)(C)C)Cl | C19H21ClO3
